US04558146
A two liter stirred batch reactor was purged with nitrogen gas and thereafter charged with 840 g (5.22 moles) of tris(dimethylamino)silane and 5 ppm hexachloroplatinic acid. The reactor was then pressurized to approximately 5 psig with nitrogen gas and heated to approximately 250° C. The acetylene inlet feed was started and maintained at 100 psig. The reaction temperature was maintained at 250° C. After four hours the acetylene flow was stopped, the reaction mix cooled and the reaction products analyzed. Vinyltris(dimethyl)amino)silane was the single major product at 90% of theoretical. Ethyltris(dimethylamino)silane and 1,2-bis(trisdimethylamino)silylethane by-products were formed in amounts less than 0.5% each. Vinyltris(dimethylamino)silane polymer was also formed in an amount of 7-8%.

reactant | tris(dimethylamino)silane | 5.22 moles, 840 g | CN(C)[SiH](N(C)C)N(C)C | C6H19N3Si
reactant | acetylene | C#C | C2H2
reactant | silane | [SiH4] | H4Si
catalyst | hexachloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | Ethyltris(dimethylamino)silane | C(C)[Si](N(C)C)(N(C)C)N(C)C | C8H23N3Si
